US06706716B2
8-{2-[4-(2,4,5-Trifluorophenyl)piperazin-1-yl]ethyl}-8-azaspiro[4.5]decane-7,9-dione
A mixture of 1-(2,4,5-trifluorophenyl)piperazine (0.94 g, 4.35 mmol) and 8-(2-chloroethyl)-8-azaspiro[4.5]decane-7,9-dione (1.00 g, 4.35 mmol) was heated with stirring at 160° C. for 7 hours. The residue was partitioned between ethyl acetate (40 mL) and saturated aqueous sodium carbonate (40 mL). The aqueous layer was extracted with ethyl acetate (2×40 mL) and the combined ethyl acetate fractions dried over sodium sulfate. The solvent was removed and the residue was purified by flash chromatography over silica gel, eluting with a gradient of hexane to hexane/ethyl acetate (1:1). The solvent was removed from the desired product [Rf=0.7, hexane/ethyl acetate (1:1)], leaving a pale tan oil which slowly solidified (0.652 g, 1.60 mmol, 37%, mp 230-234° C.). 1H NMR (300 MHz, CDCl3) δ6.89 (ddd, 1H, J=11.7, 10.2, 7.5 Hz), 6.74 (dt, 1H, J=12.0, 8.1 Hz), 3.95 (t, 2H, J=6.6 Hz), 2.97 (t, 4H, J=4.7 Hz), 2.65 (t, 4H, J=4.7 Hz), 2.60 (s, 4H), 2.54 (t, 2H, J=6.5 Hz), 1.74-1.70 (m, 4H), 1.55-1.51 (m, 4H); 13C NMR (75 MHz, CDCl3) δ172.7, 151.0 (ddd, J=243.8, 8.5, 1.7 Hz), 146.9 (ddd, J=241.6, 12.2, 3.2 Hz), 144.7 (ddd, J=242.3, 13.9, 12.4 Hz), 137.4 (ddd, J=9.6, 6.1, 2.9 Hz), 107.9 (dd, J=20.7, 4.1 Hz), 106.4 (dd, J=26.6, 21.5 Hz), 55.9, 53.6 (2C), 51.3 (d, 2C, J=3.0 Hz), 45.4 (2C), 40.1, 38.0 (2C), 36.9, 24.7 (2C); ESI-MS m/z 410 (MH+). The title compound was dissolved in ether and precipitated by addition of 1N HCl in ether, giving a white solid. The solid was recrystallized from hot methanol/chloroform (4:1) (with hexane added to cloudiness), giving white flakes (0.43 g, 0.96 mmol, 22%): mp 234-236.5° C., Anal. Calcd. For C21H26N3F3O2·1.2 HCl: C, 55.66; H, 6.05; N, 9.31; F, 12.58. Found: C, 56.06; H, 6.09; N, 9.21; F, 12.20.

reactant | 1-(2,4,5-trifluorophenyl)piperazine | 4.35 mmol, 0.94 g | FC1=C(C=C(C(=C1)F)F)N1CCNCC1 | C10H11F3N2
reactant | 8-(2-chloroethyl)-8-azaspiro[4.5]decane-7,9-dione | 4.35 mmol, 1.00 g | ClCCN1C(CC2(CCCC2)CC1=O)=O | C11H16ClNO2
solvent | ether | CCOCC | C4H10O
product | 8-{2-[4-(2,4,5-Trifluorophenyl)piperazin-1-yl]ethyl}-8-azaspiro[4.5]decane-7,9-dione | FC1=C(C=C(C(=C1)F)F)N1CCN(CC1)CCN1C(CC2(CCCC2)CC1=O)=O | C21H26F3N3O2
